### PR TITLE
feat: add Nat.log2_two_pow

### PR DESCRIPTION
**Pull request by spinylobster**

### CODE REVIEW

**Comment by spinylobster** [comment]
awaiting-review

File: src/Init/Data/Nat/Lemmas.lean [hunk 1]
```diff
@@ -786,6 +786,16 @@ theorem two_pow_pred_mul_two (h : 0 < w) :
...
 
+@[simp]
+theorem log2_two_pow : (2 ^ n).log2 = n := by
+  match n with
+  | 0 => simp [log2]
+  | n+1 =>
+    unfold log2
+    have if_true : 2 ^ (n + 1) ≥ 2 := Nat.one_lt_two_pow (by simp)
+    simp [if_true]
+    rw [Nat.pow_succ, Nat.mul_div_cancel _ (by simp), log2_two_pow]
```
Comment (TwoFX) [inline src/Init/Data/Nat/Lemmas.lean:797]: This can be golfed using the results that are already there:
```suggestion
  Nat.eq_of_le_of_lt_succ (by simp [le_log2 (NeZero.ne _)])
    (by simp [log2_lt (NeZero.ne _), Nat.pow_lt_pow_iff_right Nat.one_lt_two]
```

Comment (spinylobster) [reply src/Init/Data/Nat/Lemmas.lean]: Thank you! I addressed it.
